### PR TITLE
[Merged by Bors] - feat: the snake lemma

### PR DESCRIPTION
**Pull request by joelriou**
---
- [x] depends on: #8081 

Note: the construction may seem to contain many auxiliary definitions like `φ₁`, ` φ₂`, etc. They may not all be absolutely necessary in order to prove the snake lemma, but later it will make proofs slightly easier in the study of the functoriality of the connecting homomorphism.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/ShortComplex/SnakeLemma.lean [hunk 1]
```diff
@@ -198,6 +200,152 @@ instance epi_L₃_g [Epi S.L₂.g] : Epi S.L₃.g := by
...
+/-- The short complex `L₀.X₂ ⟶ L₀.X₃ ⟶ L₃.X₁`. -/
+@[simps]
+noncomputable def L₁' : ShortComplex C := ShortComplex.mk _ _ S.L₀_g_δ
+
+/-- The short complex `L₀.X₃ ⟶ L₃.X₁ ⟶ L₃.X₂`. -/
+@[simps]
+noncomputable def L₂' : ShortComplex C := ShortComplex.mk _ _ S.δ_L₃_f
+
+/-- Exactness of `L₀.X₂ ⟶ L₀.X₃ ⟶ L₃.X₁`. -/
+lemma exact_L₁' : S.L₁'.Exact := by
```
Comment (jcommelin) [inline Mathlib/Algebra/Homology/ShortComplex/SnakeLemma.lean:302]: In the module docstring you promise the following name:
```suggestion
lemma L₁'_exact : S.L₁'.Exact := by
```

File: Mathlib/Algebra/Homology/ShortComplex/SnakeLemma.lean [hunk 2]
```diff
@@ -198,6 +200,152 @@ instance epi_L₃_g [Epi S.L₂.g] : Epi S.L₃.g := by
...
+  apply Quiver.Hom.op_inj
+  simpa only [op_comp, Quiver.Hom.op_unop, assoc] using S.op.snd_δ_inr)
+
+/-- The duality isomorphism `S.L₂'.op ≅ S.op.L₁'`. -/
+noncomputable def L₂'OpIso : S.L₂'.op ≅ S.op.L₁' :=
+  ShortComplex.isoMk (Iso.refl _) (Iso.refl _) (Iso.refl _) (by aesop_cat)
+    (by dsimp; simp only [id_comp, comp_id, S.op_δ])
+
+/-- Exactness of `L₀.X₃ ⟶ L₃.X₁ ⟶ L₃.X₂`. -/
+lemma exact_L₂' : S.L₂'.Exact := by
```
Comment (jcommelin) [inline Mathlib/Algebra/Homology/ShortComplex/SnakeLemma.lean:345]:
```suggestion
lemma L₂'_exact : S.L₂'.Exact := by
```

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
